US06610723B2
3-Chloromethyl-5-(3,4-dichloro-phenyl)-pyridine Hydrochloride (1:1)
A solution of [5-(3,4-dichloro-phenyl)-pyridine-3-yl]-methanol (470 mg, 1.9 mmol) in thionyl chloride (4.9 ml) was stirred at 20° C. for 15 h. Evaporation of the thionyl chloride and drying under high vacuum at 50° C. for 2 h afforded the title compound (558 mg, 98%) as a light yellow solid. MS: m/e=271.0 (M+).

reactant | [5-(3,4-dichloro-phenyl)-pyridine-3-yl]-methanol | 1.9 mmol, 470 mg | ClC=1C=C(C=CC1Cl)C=1C=C(C=NC1)CO | C12H9Cl2NO
reactant | thionyl chloride | 4.9 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-Chloromethyl-5-(3,4-dichloro-phenyl)-pyridine Hydrochloride | 558 mg, 98% | Cl.ClCC=1C=NC=C(C1)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C12H8Cl3N.ClH/c13-5-8-3-10(7-16-6-8)9-1-2-11(14)12(15)4-9;/h1-4,6-7H,5H2;1H
